US06780855B2
A solution of 275 mg of 7α-(5-azadecyl)-3-benzyloxy-11β-fluor-estra-1,3,5(10)-trien-17-one in 7.8 ml of dimethylformamide is stirred with 175 mg of benzoic acid and 250 mg of 1-hydroxybenzotriazole and 0.2 ml of N,N′-diisopropylcarbodiimide for 24 hours at room temperature. Then, the reaction mixture is added to ice water, extracted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a methylene chloride-methanol gradient, 197 mg of N-[4-(3-benzyloxy-11β-fluor-estra-1,3,5(10)-trien-17-on-7α-yl)-butyl)-N-pentyl-benzamide is obtained.

reactant | 7α-(5-azadecyl)-3-benzyloxy-11β-fluor-estra-1,3,5(10)-trien-17-one | 275 mg | C(CCCNCCCCC)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)OCC1=CC=CC=C1)F)=O | C34H46FNO2
reactant | benzoic acid | 175 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-hydroxybenzotriazole | 250 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N′-diisopropylcarbodiimide | 0.2 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dimethylformamide | 7.8 ml | CN(C=O)C | C3H7NO
product | N-[4-(3-benzyloxy-11β-fluor-estra-1,3,5(10)-trien-17-on-7α-yl)-butyl)-N-pentyl-benzamide | 197 mg | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)C[C@@H]([C@@H]3C2C=C1)F)=O)CCCCN(C(C1=CC=CC=C1)=O)CCCCC | C41H50FNO3
